* Frozen netlist snapshot for record 20260801-193959-84f67b8
* This is a verbatim copy taken at record time. Do not edit.

* ======================================================================
* DUT netlist          : design/netlist/ldo_core.spice
* sha256               : 09894414484b095e136395346a8ab147c6856ced3b598f7027cebb7ea2debb9f
* ======================================================================
* ldo_core -- generated by design/netlist.py from design/ldo_core.sch
* Do not edit: edit the schematic and re-run the export.
** sch_path: design/ldo_core.sch
.subckt ldo_core VIN VOUT EN VSS ERRAMP_OUT PASS_GATE
*.PININFO VIN:B VOUT:B EN:I VSS:B ERRAMP_OUT:O PASS_GATE:I
XMpass VOUT PASS_GATE VIN VIN pfet_03v3 L=0.28u W=2000u nf=40 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMen PASS_GATE EN VIN VIN pfet_03v3 L=0.28u W=50u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
Rtop VOUT FB 300k m=1
XCff VOUT FB cap_mim_2f0_m2m3_noshield c_width=87u c_length=87u m=1
Rbot FB VSS 600k m=1
Vref1 VREF VSS 1.2
Xerramp FB VREF ERRAMP_OUT VIN VSS EN error_amp
Xilimit VIN VOUT PASS_GATE EN VREF VSS ldo_ilimit
Xsoftstart VIN FB PASS_GATE EN VREF VSS ldo_softstart
.ends

* expanding   symbol:  error_amp.sym # of pins=6
** sym_path: design/error_amp.sym
** sch_path: design/error_amp.sch
.subckt error_amp INP INN OUT VDD VSS EN
*.PININFO INP:I INN:I OUT:O VDD:B VSS:B EN:I
XRbias NBIAS RBT VSS ppolyf_u_1k r_width=1u r_length=1000u m=1
XMB1 NBIAS NBIAS VSS VSS nfet_03v3 L=4u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMTAIL TAIL NBIAS VSS VSS nfet_03v3 L=4u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMIN1 ND INN TAIL VSS nfet_03v3 L=6u W=60u nf=6 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMIN2 N1 INP TAIL VSS nfet_03v3 L=6u W=60u nf=6 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMLD1 ND ND VDD VDD pfet_03v3 L=8u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMLD2 N1 ND VDD VDD pfet_03v3 L=8u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRz NZ N1 VSS ppolyf_u_1k r_width=1u r_length=6000u m=1
XCc NZ OUT cap_mim_2f0_m2m3_noshield c_width=49u c_length=49u m=1
XM2P BG N1 VDD VDD pfet_03v3 L=2u W=150u nf=15 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2N BG NBIAS VSS VSS nfet_03v3 L=4u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRbufb NBP N1 VSS ppolyf_u_1k r_width=1u r_length=5000u m=1
XMbufb OUT NBP VDD VDD pfet_03v3 L=2u W=200u nf=20 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMbuf OUT BG VSS OUT pfet_03v3 L=1u W=150u nf=15 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMpgn OUT NBIAS VSS VSS nfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMbg_pu BG EN VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMinv_p ENB EN VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMinv_n ENB EN VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMbias_h RBT ENB VDD VDD pfet_03v3 L=0.5u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMnb_pd NBIAS ENB VSS VSS nfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMn1_pu N1 EN VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMnd_pu ND EN VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  ldo_ilimit.sym # of pins=6
** sym_path: design/ldo_ilimit.sym
** sch_path: design/ldo_ilimit.sch
.subckt ldo_ilimit VIN VOUT PASS_GATE EN VREF VSS
*.PININFO VIN:B VOUT:B PASS_GATE:B EN:I VREF:I VSS:B
XMsense ISNS PASS_GATE VIN VIN pfet_03v3 L=0.28u W=50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRsns VOUT ISNS VSS ppolyf_u r_width=5u r_length=7.6u m=10
XMpd PB PB VIN VIN pfet_03v3 L=2u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMrefp VTH PB VIN VIN pfet_03v3 L=2u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRref VOUT VTH VSS ppolyf_u_3k r_width=1u r_length=30u m=1
Fbias PB VSS Vbsense 1
Vbsense VREF BT 0
XRbias BB BT VSS ppolyf_u_3k r_width=1u r_length=360u m=1
XMben BB EN VSS VSS nfet_03v3 L=0.5u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMca CN ISNS TAIL VIN pfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMcb CO VTH TAIL VIN pfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRtail TAIL TAILP VSS ppolyf_u_3k r_width=1u r_length=150u m=1
XMna CN CN VSS VSS nfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMnb CO CN VSS VSS nfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMen_co CO ENB VSS VSS nfet_03v3 L=0.5u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCc CO VSS cap_mim_2f0_m2m3_noshield c_width=25u c_length=20u m=1
XMg2 CLG CO VSS VSS nfet_03v3 L=1u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRl2 CLG VIN VSS ppolyf_u_3k r_width=1u r_length=150u m=1
XMcoff CLG EN VIN VIN pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMclamp PASS_GATE CLG VIN VIN pfet_03v3 L=0.5u W=50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMinv_p ENB EN VIN VIN pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMinv_n ENB EN VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMen_t TAILP ENB VIN VIN pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  ldo_softstart.sym # of pins=6
** sym_path: design/ldo_softstart.sym
** sch_path: design/ldo_softstart.sch
.subckt ldo_softstart VIN FB PASS_GATE EN VREF VSS
*.PININFO VIN:B FB:I PASS_GATE:B EN:I VREF:I VSS:B
Vbsense_ss VREF BT 0
XRss_bias BB BT VSS ppolyf_u_3k r_width=1u r_length=1000u m=1
XMben_ss BB EN VSS VSS nfet_03v3 L=0.5u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
Fss_ramp VIN SSR Vbsense_ss 0.0060
XCss SSR VSS cap_mim_2f0_m2m3_noshield c_width=60u c_length=60u m=1
XMdis_ss SSR ENB VSS VSS nfet_03v3 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMtop_ss VSS VREF SSR VIN pfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMen_t_ss TAILP ENB VIN VIN pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRtail_ss TAIL TAILP VSS ppolyf_u_3k r_width=1u r_length=600u m=1
XMca_ss CN FB TAIL VIN pfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMcb_ss CO SSR TAIL VIN pfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMna_ss CN CN VSS VSS nfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMnb_ss CO CO VSS VSS nfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCc_ss CO VSS cap_mim_2f0_m2m3_noshield c_width=25u c_length=20u m=1
XMen_l LP ENB VIN VIN pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRl2_ss CLG LP VSS ppolyf_u_3k r_width=1u r_length=2000u m=1
XMg2_ss CLG CO VSS VSS nfet_03v3 L=1u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMpark_ss CLG ENB VSS VSS nfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMclamp_ss PASS_GATE CLG VIN VIN pfet_03v3 L=0.5u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCm_ss CLG PASS_GATE cap_mim_2f0_m2m3_noshield c_width=60u c_length=60u m=1
XMinv_p ENB EN VIN VIN pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMinv_n ENB EN VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

* ======================================================================
* testbench fragment   : sim/dropout-vs-load/testbench/tb_dropout.spice
* sha256               : 081b2bf487b6b51310720283a53ec487160c0ac828724cc55ba444e1762f4472
* ======================================================================
* dropout-vs-load -- stimulus fragment for ldo_core (issue #12)
*
* Measures dropout voltage (Vin - Vout) at the ratified 50 mA full-load spec
* point. Per spec/decision-records/DR-0004-spec-ratification.md note 4,
* dropout is measured at Vin = Vout + dropout ~= 2.10 V, not at the +/-10%
* supply floor (2.97 V) -- undersizing from the 2.97 V rows undersizes the
* pass device by ~50% (sim/devchar/CONCLUSIONS.md Sec.1). The harness's
* normal supply grid is collapsed to this single binding value via tb.json's
* nominal_supply_v/supply_tolerance (see the recorded --subset-reason).
*
* EN is tied directly to VIN at instantiation (same net used twice), which
* wires Vgs=0 at the enable clamp -- the "enabled" state -- without a
* separate source.
Vsup VIN 0 DC {vdd_val}
Xdut VIN VOUT VIN 0 LOOP LOOP ldo_core

* --- 50 mA compliance-limited load sink -- the full-load dropout point
* (README.md Target specification, "Dropout @ 50 mA" row). Output network
* per DR-0001's window (1.0 uF nominal + 100 mOhm ESR); inert at this DC
* operating point.
*
* This is the same sink #46/#49 put into load-regulation, line-regulation,
* load-transient, psrr-vs-freq and quiescent-current, and for the same
* reason: an IDEAL sink demands its current at any terminal voltage,
* including tens of volts below ground, where forward-biased substrate
* junctions inside the PDK models supply it. That is a genuine second DC
* solution of this deck, not a convergence failure. This experiment was the
* one #46 left on an ideal sink plus a `.nodeset` hint, because the hint
* happened to steer all 15 of its points into the physical basin against
* the DUT of the day; it does not survive a change to the pass-gate drive
* node (issue #51's buffer), which is exactly the fragility #40 flagged.
* Bounding the sink at 0 V deletes the branch instead of hiding it. See
* sim/harness/README.md, "Compliance-limited load sinks".
*
*     f(VOUT) = 0.5 * (1 + tanh((VOUT - 0.2) / 0.05))
*
* At the ~1.8 V this design regulates to, 1 - f is below double precision,
* so the sink is an ideal 50 mA current sink at every operating point this
* record reports; i(Vlmeas) is measured and checked against the commanded
* 50 mA so that stays verified rather than assumed.
Vilc ILC 0 DC 50m
Bload VOUT NLOAD I = 'v(ilc) * 0.5 * (1 + tanh((v(vout) - 0.2) / 0.05))'
Vlmeas NLOAD 0 DC 0
Resr VOUT n_esr 0.1
Cout n_esr 0 1u
